US08067445B2
Step 2: (3-Benzyloxy-5-trifluoromethyl-phenyl)-acetic acid methyl ester
To a solution of (3-benzyloxy-5-trifluoromethyl-phenyl)-acetic acid (1.5 g, 4.8 mmol) in MeOH (10 mL) was added 4N HCl in 1,4-dioxane (2 mL), and the reaction was stirred at 80° C. for 1 hour. The mixture was concentrated and purified by silica gel chromatography to give the title compound.

reactant | (3-benzyloxy-5-trifluoromethyl-phenyl)-acetic acid | 4.8 mmol, 1.5 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C(F)(F)F)CC(=O)O | C16H13F3O3
reactant | HCl | 4N | Cl | ClH
reactant | MeOH | 10 mL | CO | CH4O
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (3-Benzyloxy-5-trifluoromethyl-phenyl)-acetic acid methyl ester | COC(CC1=CC(=CC(=C1)C(F)(F)F)OCC1=CC=CC=C1)=O | C17H15F3O3
